US05496947
Preparation of 1-(5-fluoro-2-pyridyl)-6-fluoro-7-(1-piperazinyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid hydrochloride
0.5 g of ethyl 1-(5-fluoro-2-pyridyl)-6-fluoro-7-(1-piperazinyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate is added to 10 ml of water and 10 ml of conc. hydrochloric acid. The mixture is refluxed for 24 hours, cooled to room temperature and concentrated under a reduced pressure. The concentrate is added with 20 ml of ethanol and stirred at room temperature for 2 hours, filtered and dried. The product is recrystallized in a mixed solvent of water and methanol to obtain 0.39 g of the desired compound.

reactant | ethyl 1-(5-fluoro-2-pyridyl)-6-fluoro-7-(1-piperazinyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 0.5 g | FC=1C=CC(=NC1)N1C=C(C(C2=CC(=C(N=C12)N1CCNCC1)F)=O)C(=O)OCC | C20H19F2N5O3
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | water | 10 ml | O | H2O
product | 1-(5-fluoro-2-pyridyl)-6-fluoro-7-(1-piperazinyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid hydrochloride | 0.39 g | Cl.FC=1C=CC(=NC1)N1C=C(C(C2=CC(=C(N=C12)N1CCNCC1)F)=O)C(=O)O | InChI=1S/C18H15F2N5O3.ClH/c19-10-1-2-14(22-8-10)25-9-12(18(27)28)15(26)11-7-13(20)17(23-16(11)25)24-5-3-21-4-6-24;/h1-2,7-9,21H,3-6H2,(H,27,28);1H
